US20010027196A1
2-Amino-4-cyclohexyloxy-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile
From 2-amino-4-(5-methyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile, cyclohexanol and DBU in DME. ES-MS m/e (%): 299 (M+H+, 50), 217 (M+H—C6H10+, 100).

reactant | 2-amino-4-(5-methyl-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC(=CC1)C)C#N)SC | C11H10N4OS
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-cyclohexyloxy-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OC1CCCCC1)C#N)C=1OC(=CC1)C | C16H18N4O2
